US05242912
a) 7-Nitro-2,3,4,5-tetrahydro-1H-1-benzazepine-9-carboxylic acid methyl ester
7-Nitro-2,3,4,5-tetrahydro-1H-1-benzazepine-9-carboxylic acid (6.25 g) was dissolved into DMF (50 ml), to which then potassium carbonate (11 g) and methyl iodide (4.9 ml) were added, and was stirred for 2 hours at room temperature. After the insoluble matter was filtered off and the filtrate was concentrated, ethyl acetate (500 ml) was added to the residue, which was then washed with water and dried over anhydrous sodium sulfate. The solvent was distilled off to give the intended compound 6.65 g (quantitatively) as yellow crystal.

reactant | 7-Nitro-2,3,4,5-tetrahydro-1H-1-benzazepine-9-carboxylic acid | 6.25 g | [N+](=O)([O-])C=1C=C(C2=C(CCCCN2)C1)C(=O)O | C11H12N2O4
reactant | potassium carbonate | 11 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 4.9 ml | CI | CH3I
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 7-Nitro-2,3,4,5-tetrahydro-1H-1-benzazepine-9-carboxylic acid methyl ester | 6.65 g | COC(=O)C1=CC(=CC=2CCCCNC21)[N+](=O)[O-] | C12H14N2O4
